US05843942
To a solution of ethyl 5-(tert-butoxycarbonylamino)pyrazine-2-carboxylate (10.7 g 0.04 mol) in DMF (160 ml) at 20° C., under argon atmosphere, was added sodium hydride dispersion (50% in oil, 1.85 g, 0.04 mol) and stirred for 1 hour until effervescence ceased. Next was added 2-benzyloxy-5-bromobenzylbromide (14.3 g, 0.04 mol) and stirring continued at 20° C. under argon for 2 hours. The solvent was evaporated at reduced pressure and the residue partitioned between dichloromethane (500 ml) and water (250 ml), the organic layer was dried over magnesium sulphate and evaporated at reduced pressure to give a crude solid (21 g). Purification was by chromatography on silica, eluting with 5% ethyl acetate in dichloromethane to give ethyl 5-(N-(2-benzyloxy-5-bromobenzyl)-N-tert-butoxycarbonylamino)pyrazine-2-carboxylate as a white solid (16 g, mp 116°-7° C.).

reactant | ethyl 5-(tert-butoxycarbonylamino)pyrazine-2-carboxylate | 0.04 mol, 10.7 g | C(C)(C)(C)OC(=O)NC=1N=CC(=NC1)C(=O)OCC | C12H17N3O4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-benzyloxy-5-bromobenzylbromide | 0.04 mol, 14.3 g | C(C1=CC=CC=C1)OC1=C(CBr)C=C(C=C1)Br | C14H12Br2O
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | ethyl 5-(N-(2-benzyloxy-5-bromobenzyl)-N-tert-butoxycarbonylamino)pyrazine-2-carboxylate | 16 g | C(C1=CC=CC=C1)OC1=C(CN(C(=O)OC(C)(C)C)C=2N=CC(=NC2)C(=O)OCC)C=C(C=C1)Br | C26H28BrN3O5
